US08217176B2
Production of tert-butyl (1-benzylazepan-4-yl)carbamate
To a solution of 1-benzylazepan-4-amine (400 mg, 2.0 mmol) and triethylamine (0.82 mL, 5.9 mmol) in THF (5.0 mL) was added di-tert-butyl dicarbonate (591 mg, 2.7 mmol) under ice-cooling, and the mixture was stirred at room temperature for 4 hr. The reaction mixture was diluted with saturated sodium hydrogen carbonate solution, and extracted twice with ethyl acetate. The extract was combined, washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by aminosilica gel chromatography (eluate; ethyl acetate/hexane=10/90-100/0) to give the title compound (447 mg, quant.) as a colorless oil.

reactant | 1-benzylazepan-4-amine | 2.0 mmol, 400 mg | C(C1=CC=CC=C1)N1CCC(CCC1)N | C13H20N2
reactant | triethylamine | 5.9 mmol, 0.82 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.7 mmol, 591 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | tert-butyl (1-benzylazepan-4-yl)carbamate | 447 mg | C(C1=CC=CC=C1)N1CCC(CCC1)NC(OC(C)(C)C)=O | C18H28N2O2
